US06770463B2
Preparation of 4-Fluoro-3-phenoxybenzaldehyde
After dissolving sodium metal (0.41 g, 17.8 g-atom) in ethanol (25 ml), nitropropane (1.65 g) and 4-(bromomethyl)-1-fluoro-2-phenoxybenzene (5.00 g) are added and the mixture stirred for 3.5 h. The reaction was filtered and concentrated in vacuo. The residue is taken up in ether and washed with water (10 ml). The organic layer is dried over anhydrous sodium sulfate and concentrated in vacuo. The residue is chromatographed on silica gel eluting with ether:hexane (10:90) to afford the title compound as a colorless liquid which is characterized by 1HNMR spectral analyses.

reactant | sodium | 0.41 g | [Na] | Na
reactant | nitropropane | 1.65 g | [N+](=O)([O-])CCC | C3H7NO2
reactant | 4-(bromomethyl)-1-fluoro-2-phenoxybenzene | 5.00 g | BrCC1=CC(=C(C=C1)F)OC1=CC=CC=C1 | C13H10BrFO
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-Fluoro-3-phenoxybenzaldehyde | FC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9FO2
